data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7138,"C1CC[C:1]2=[NH+:2]CCCC2C1.N#C[BH2-:3][H:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,10165,"C[O+:1]=[CH:2]O|((2, 1), 1)"
train,pmechdb_split_0,0,7471,"OC1(O)CCC[O:1]1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1657,"Br[C:1]1([H:2])OC=C[C+:3]1Br.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,161,"C1CO[C:1]([NH3+:2])([OH:3])OC1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5525,"CO[CH:1]([OH2+:2])[OH:3].[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5631,"C1=CC=[N:1]C=C1.C[CH:2]([H:3])[C:4](C)(C)[O:5]P(=O)(Cl)Cl|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4769,"O=S(=O)(O)C1=C2C=C[CH:1]=[CH:2]C2=CC=C1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,9534,"C1C[N:1]2CCN1CC2.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9400,"CC#[C-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2564,"CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:1]C(=O)OCC.COC1=CC=C(OC(CCCCC2=CC=CC=C2)C(CO)C(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,866,"C1=C[N:1]=CN1.N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7487,"CC(=O)[O-:1].CC1CC[CH+][CH]([Sn:2]([CH3])([CH3])[CH3])C1|(1, 2)"
train,pmechdb_split_0,0,173,"CC1CC(C2=CC=CC=C2)[CH:1]=[C:2]1C1=CC=CC=C1.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,402,"CC1=C2C3=CC(O)=CC=C3N(C)C2=C(C)C2=C1C=NC=C2.COC=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8832,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.COC(=O)[N+:2]1([H:3])CCCC(O)C1(O)C1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1542,"C1=CC=CC=C1.C1CC[C:1]([N:2]2CCOCC2)([OH:3])CC1.C1COCCN1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5445,"CCC1C(CCCC[OH:1])C2C(CCN2C(=O)OC)C2C(C)C(=O)OC12.CC[NH+](CC)CC.O=[S:2](=O)=[CH2:3].[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5681,"O=C(O[C:1]1=[CH:2]C=C(Br)C=C1Br)C1=CC=CC=C1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1139,"CC1(C)C=CC(=O)C(C)(C[CH:1]=[C:2](C)[OH:3])C1.[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9170,"CC(C)(O)[CH:1](C#N)[H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1842,"CC1(C)CC2C1CC[C:1](=[O+:2]C)C1CCC2(C)C1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9787,"CCC(N(C)C)[NH:1]CC.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6083,"CCC(=O)O[C+:1]1C=C[C:2]([N+](=O)[O-])([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,4586,"CC(C)[C:1]1([H:2])C=CC=C[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,4279,"O=S(Cl)O[C:1](CCO)=[O:2].[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,663,"CC1(C)CC2=C(C=NN2C2=CC=C(F)C=C2)C2=[N+:1]([H:2])C3=C(C=C(C(=O)C4=CC=CC=C4)C=C3)N=C21.CCO.NC1=C([NH2:3])C=C(C(=O)C2=CC=CC=C2)C=C1.O.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,822,"C(C1CCC2(CC1)OCCO2)=[O+:1][H:2].CC(=O)[O-:3].CO.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6431,"CC[CH2:1][O:2]S(=O)Cl.[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2113,"CC#[C-:1].CC[C:2]#[N:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7874,"C1=CC=[C:1]([Li:2])C=C1.C[C:3](OC(=O)CCC=O)=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3473,"CCOC(=O)N1CCC=CC1C[CH+:1][CH2:2][Si-:3](C)(C)(C)O.[Cl][Sn]([Cl])([Cl])[Cl]|((3, 2), 1)"
train,pmechdb_split_0,0,6210,"CCSC[CH:1]=[C:2](C)[OH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,5561,"CO[C:1](CCC(=O)OC(C)=O)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1008,"CCOC(C)(C)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4590,"N#CC1=CC2=C(C=C1)C=C[CH+:1][C:2]2(S(=O)(=O)O)[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,361,"C1=CC=C([CH:1]=[N+:2]2CCCCC2)C=C1.C[Si](C)(C)C[CH:3]=[CH2:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3279,"CC(=O)C=C(CC1=CC=CC=C1)[O:1][H:2].CC(C)[N-:3]C(C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,597,"CC(=O)CCC[C:1]([CH2:2][H:3])=[OH+:4].O=S(=O)(O)[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,6511,"CCCC=C(C)[CH:1]([NH2+:2]C(C)(C)C)[OH:3].O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7623,"CC(=O)[O:1][H:2].O.O=S(CCN1CCC2CCC3([NH2:3])NC4=C(C=CC=C4)C3C21)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8697,"CO[PH:1](Cl)(OC)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,9788,"CC[NH2:1].C[CH:2]([H:3])[CH:4]=[N+:5](C)C|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9701,"Br[C:1](Br)([H:2])[CH:3]=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6649,"C[P+:1](Cl)(Cl)[Mg][Br].[Br][Mg:2][CH3:3]|((2, 3), 1)"
train,pmechdb_split_0,0,4172,"CCN(CC)C(C)(O)[NH2:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9198,"CC(O)OC(C)[C:1](=[CH:2][O-:3])[CH2:4][N+:5](C)(C)C|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9363,"C=CC(C)C(CO[Si](C(C)C)(C(C)C)C(C)C)[OH+:1][B-:2]1(O)OC(C(=O)OC(C)C)C(C(=O)OC(C)C)O1.[Na+].[OH-]|((2, 1), 1)"
